US07109360B1
11β-Phenyl-3-triethylsilyl-estra-1,3,5(10),16-tetraene
Corresponding to Example 28, 450 mg of 11β-phenyl-estra-1,3,5(10),16-tetraen-3-ol (crude product) is reacted to triethylsilylether. The product that is obtained is purified by chromatography on silica gel (cyclohexane/ethyl acetate, 6/1), and the solution is concentrated by evaporation in a vacuum. An oily substance is obtained. Yield 320 mg (72% of theory relative to 515 mg of 11β-phenyl-17-tosylhydrazono-estra-1,3,5(10)-trien-3-ol).

reactant | 11β-phenyl-estra-1,3,5(10),16-tetraen-3-ol | 450 mg | C1(=CC=CC=C1)[C@@H]1[C@@H]2C=3C=CC(=CC3CC[C@H]2[C@@H]2CC=C[C@@]2(C)C1)O | C24H26O
reactant | triethylsilylether | C(C)[Si](CC)(CC)O[Si](CC)(CC)CC | C12H30OSi2
reactant | 11β-phenyl-17-tosylhydrazono-estra-1,3,5(10)-trien-3-ol | 515 mg | C1(=CC=CC=C1)[C@@H]1[C@@H]2C=3C=CC(=CC3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=NNS(=O)(=O)C1=CC=C(C)C=C1)O | C31H34N2O3S
product | 11β-Phenyl-3-triethylsilyl-estra-1,3,5(10),16-tetraene | C1(=CC=CC=C1)[C@@H]1[C@@H]2C=3C=CC(=CC3CC[C@H]2[C@@H]2CC=C[C@@]2(C)C1)[Si](CC)(CC)CC | C30H40Si
